US08071584B2
5-[3-({[(1S)-1,2-Dimethylpropyl]amino}methyl)phenyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
To 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (80 mg, 0.216 mmol) in dioxane and water (4 mL/1 mL) was added (3-formylphenyl)boronic acid (45 mg), Pd(PPh3)4 (25 mg) and K2CO3 (104 mg). The reaction mixture was redissolved in DMSO (2 mL). To the resultant mixture zinc chloride (30 mg), NaCNBH3 (30 mg) and (2s)-3-methyl-2-butanamine (50 mg) were added. The mixture was heated to 100° C. for 30 minutes by microwave irradiation and purified by HPLC with TFA to afford the title compound (16 mg).

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.216 mmol, 80 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | (3-formylphenyl)boronic acid | 45 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | K2CO3 | 104 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCNBH3 | 30 mg | [BH3-]C#N.[Na+]
reactant | (2s)-3-methyl-2-butanamine | 50 mg | CC([C@H](C)N)C | C5H13N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc chloride | 30 mg | [Cl-].[Zn+2].[Cl-]
product | 5-[3-({[(1S)-1,2-Dimethylpropyl]amino}methyl)phenyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 16 mg | C[C@@H](C(C)C)NCC=1C=C(C=CC1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C26H33N3O3S
